### PR TITLE
[Merged by Bors] - chore: fix some porting notes about simp_rw

### PR DESCRIPTION
**Pull request by joneugster**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Subsingleton.lean [hunk 1]
```diff
@@ -276,19 +276,10 @@ theorem nontrivial_of_nontrivial (hs : s.Nontrivial) : Nontrivial α :=
   ⟨⟨x, y, hxy⟩⟩
 #align set.nontrivial_of_nontrivial Set.nontrivial_of_nontrivial
 
--- Porting note: simp_rw broken here
--- Perhaps review after https://github.com/leanprover/lean4/issues/1937?
 /-- `s`, coerced to a type, is a nontrivial type if and only if `s` is a nontrivial set. -/
 @[simp, norm_cast]
 theorem nontrivial_coe_sort {s : Set α} : Nontrivial s ↔ s.Nontrivial := by
-  -- simp_rw [← nontrivial_univ_iff, Set.Nontrivial, mem_univ, exists_true_left, SetCoe.exists,
-  --   Subtype.mk_eq_mk]
```
Comment (joneugster) [inline Mathlib/Data/Set/Subsingleton.lean:285]: This old `simp_rw` does still not work, but `exists_true_left` seems to be pretty unrelated to the goal state. Since it's a short `simp` statement, I thought, maybe it just ought to be replaced.

File: Mathlib/Data/Set/Image.lean [hunk 2]
```diff
@@ -1002,20 +1002,8 @@ theorem range_const : ∀ [Nonempty ι] {c : α}, (range fun _ : ι => c) = {c}
...
-    rw [Subtype.map, Subtype.mk.injEq] at hab
-    use a
-    trivial
-  · rintro ⟨a, b, hab⟩
-    use a
-    use b
-    rw [Subtype.map, Subtype.mk.injEq]
-    exact hab
-  -- Porting note: `simp_rw` fails here
-  -- simp_rw [mem_preimage, mem_range, mem_image, Subtype.exists, Subtype.map, Subtype.coe_mk,
```
Comment (joneugster) [inline Mathlib/Data/Set/Image.lean:1017]: The old `simp_rw` does not exactly work, but the rest is a short `simp only` statement

**Comment by joneugster** [comment]
!bench

**Review by grunweg — COMMENTED** [review]
Looks good to me; thanks for doing this! Let's get another pair of eyes on the two changes you flagged.
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
